Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel stiff and I hear an echo"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yr old male with a h/o new onset psychosis with auditory
hallucinations prompting admission to ___ in ___
who was discharged on Haldol 5mg BID and Benadryl who reported
experiencing increasing restlessness and limb rigidity since
discharging prompting patient to self discontinue medication 2
weeks ago. In this context patient was brought in by family to
the ___ with complaints that patient was again experiencing
recurrent auditory hallucinations, was medication non-complaint
and family was having difficulty coordinating previously planned
outpatient psychiatry follow-up with Dr. ___ at ___. 

Course in Emergency Department (including behavior, medications
given, restraints if given, medical w/u if done):
Patient in the ___ ED was started on Zyprexa 5mg BID with
subsequent upward titration to 10mg BID. In addition, patient
required a prn Haldol at 4pm on ___ after becoming angry and
stating that ___ was feeling anxious and wanted to leave the
hospital. Patient met ___ criteria for inability to care
for self and was admitted psychiatrically in that context. 

 
Past Medical History:
asthma
unclear testicular operation in childhood

 
Social History:
___
Family History:
None known
 
Physical Exam:
VS:  98.2 118/83 67 16 100%
 
MENTAL STATUS EXAM:
--appearance: wearing hospital gown, poorly groomed
--behavior/attitude: cooperative though with mild-moderate
psychomotor agitation with hand wringing and bilateral leg
shaking
--speech: mildly hypophonic speech
--mood (in patient's words): "I feel fine right now" 
--affect: constricted
--thought content (describe): Denies paranoid ideations, denies
thoughts of harming self or others
--thought process: linear though somewhat more disorganized at
times
--perception: Reports recent experiencing of hearing his voice
echo in his head as ___ speaks; denies this currently happening;
denies ideas of reference or thought broadcasting experiences
--SI/HI: denies SI/Hi
--insight: fair
--judgment: poor
--Abstraction: Concrete
 
COGNITIVE EXAM:
Oriented preserved to month, year, day of the week, hospital 
name
Attention: able to name days of the week forwards and backwards
Memory: registers and recalls ___ words after 3 minutes
Language: Speech fluent, able to repeat simple phrases and 
follow
two step commands

PE:
GEN: well appearing; well nourished
HEENT: atraumatic, normocephalic; normal oral pharynx
CV: s1/s2 RRR, no appreciable murmurs
Lungs: CTA anteriorly
ABD: s/nt/nd positive BS
EXT: NO c/c/c

Neurologic Exam: 
Pupils 3-2mm, eomi, VFF, intact facial sensation intact 
sensation
to LT without extinction, normal voice and hearing, tongue
midline
Full Strength; no appreciable increased tone including
reinforcement maneuvers in bilateral arms and legs
Intact sensation to LT without extinction
Reflexes 2+ and symmetric
Toes downgoing 
Narrow based gait, negative Romberg. 

 
Pertinent Results:
___ 04:03AM BLOOD ALT-16 AST-16 AlkPhos-58 TotBili-0.3
___ 04:03AM BLOOD Cholest-138
___ 04:03AM BLOOD %HbA1c-5.2 eAG-103
___ 04:03AM BLOOD Triglyc-70 HDL-37 CHOL/HD-3.7 LDLcalc-87
 
Brief Hospital Course:
Psychiatric Hospital Course:
Patient was started on Zyprexa while in the ___ ED and this 
was increased to 10mg BID by admission on ___. Patient denied 
hallucinations, paranoid ideations but continued to exhibit 
negative symptoms with improved with encouragement to attend 
groups. Patient reported improvement of extrapyramidal symptoms 
including stiffness and akathesia following Zyprexa initiation 
and haldol discontinuation; also received a one time dose of 
propranolol 10mg x1. Patient was offered discharge with 
immediate referral to a partial program but ___ elected against 
this and instead preferred individual therapy which was set up 
by social work. 

Medical Hospital Course:
Patient had no medication changes for medical conditions this 
admission

Legal:
___
Psychosocial:
Patient has good social support at home with involved mother and 
sister. 

Safety:
Patient was maintained on Q15 minute checks and was in good 
control throughout admission. 
 
Medications on Admission:
Haldol 5mg QHS
Benadryl 50mg QHS
 
Discharge Medications:
1. olanzapine 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multi-Axial Diagnosis:
  I Schizophreniform disorder; r/o schizophrenia 
  II deferred
  III asthma
  IV no current psychiatric providers, unemployed
  V GAF 30

 
Discharge Condition:
Ambulates without assistance
Improved

--appearance: wearing hospital gown
--behavior/attitude: cooperative; mild psychomotor
retardation
--speech: mildly hypophonic, intermittent stuttering speech
--mood (in patient's words): 'I feel fine' 
--affect: constricted
--thought content (describe): Denies paranoid ideations, denies
thoughts of harming self or others
--thought process: linear though communicates in short
abbreviated sentences
--perception: denies ongoing auditory/visual hallucinations
--SI/HI: denies SI/HI
--insight: fair
--judgment: fair
--Abstraction: Concrete

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
.
Heart Healthy: Whenever possible, choose a variety of foods that 
are low in saturated fat/rich in polyunsaturated fats, low in 
simple sugars/rich in whole grains, and rich in fruits and 
vegetables.
 
Followup Instructions:
___